US07754742B2
1-(2,4-Dihydroxy-3-trifluoromethyl-phenyl)-3-methyl-butan-1-one
Add methanesulfonic acid (41 mL) to a solution of 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-3-methyl-butan-1-one (19.1 g, 38.9 mmol) in dimethyl sulfide (146 mL) at room temperature under argon gas. Heat the reaction mixture gently to reflux overnight. Quench the reaction mixture with ice-water and stir for 1 hr. Separate the organic layer and extract the aqueous with ethyl acetate (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate to give a crude oil. Purify the resulting crude oil by flash column chromatography (silica gel) eluting with 25% ethyl acetate/hexane to provide the title compound as a tan solid (5.3 g, 20.2 mmol, 52% yield). MS (m/z): 263 (M+1).

reactant | methanesulfonic acid | 41 mL | CS(=O)(=O)O | CH4O3S
reactant | 1-(2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-3-methyl-butan-1-one | 38.9 mmol, 19.1 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=CC=C1)C(CC(C)C)=O | C26H25F3O3
solvent | dimethyl sulfide | 146 mL | CSC | C2H6S
product | 1-(2,4-Dihydroxy-3-trifluoromethyl-phenyl)-3-methyl-butan-1-one | 20.2 mmol, 5.3 g, 52% yield | OC1=C(C=CC(=C1C(F)(F)F)O)C(CC(C)C)=O | C12H13F3O3
